US06211234B1
A mixture of 4-benzyloxy-2-hydroxyaceto-phenone (1.2 g), ethyl (RS)-4-chloro-4-phenyl-butanoate (1.21 g), potassium carbonate (760 mg), potassium iodide (35 mg) and dimethylformamide (30 mL) is stirred at 100° C. for 8 hours. It is evaporated to dryness and the resulting residue is partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer is dried over magnesium sulphate, filtered and concentrated in vacuo. Flash chromatography of the resulting oil, eluting with 15-30% ethyl acetate/hexane, affords ethyl (RS)-4-(2-acetyl-5-benzyloxy-phenoxy)-4-phenylbutanoate (0.73 g), in the form of a yellow oil.

reactant | 4-benzyloxy-2-hydroxyaceto-phenone | 1.2 g | CC(=O)C1=C(C=C(C=C1)OCC2=CC=CC=C2)O | C15H14O3
reactant | ethyl (RS)-4-chloro-4-phenyl-butanoate | 1.21 g | ClC(CCC(=O)OCC)C1=CC=CC=C1 | C12H15ClO2
reactant | potassium carbonate | 760 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 35 mg | [I-].[K+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ethyl (RS)-4-(2-acetyl-5-benzyloxy-phenoxy)-4-phenylbutanoate | 0.73 g | C(C)(=O)C1=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C27H28O5
